US07141561B2
1-[4-(2-Methylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-[4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (50 mg) in acetonitrile (1 ml) was left to stand with methylamine (1M in THF, 1 ml) and sodium iodide (5 mg) and 24 hours. The reaction solution was filtered and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 401.47 (C24H23N3O3); MS (ESI): 402 ([M+H]+), was obtained as hydroformate in this way.

reactant | 1-[4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 50 mg | BrCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H19BrN2O3
reactant | methylamine | 1M, 1 ml | CN | CH5N
reactant | sodium iodide | 5 mg | [I-].[Na+]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-[4-(2-Methylaminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | CNCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C24H23N3O3
